US08895733B2
1-[5-(3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridin-2-yl]ethan-1-one
To a solution of methyl 5-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridine-2-carboxylate (prepared in an analogous manner to Example 279, 1.00 g, 2.47 mmol) in anhydrous THF (30 mL) at −78 C was added methyl magnesium bromide (3M sol. in ether, 907 μL, 2.72 mmol) drop wise under an inert atmosphere. The resulting solution was stirred at −78 C for 1 h and then allowed to warm to room temperature where upon stirring was continued for a further 1 h. The reaction mixture was cooled again and quenched with acetone (1 mL) and a 10% citric acid aq. solution (5 mL). The reaction mixture was extracted with EtOAc (3×50 mL) and the resultant organics washed with brine (25 mL), dried over magnesium sulfate and evaporated to dryness. 50 milligrams of the resulting crude material was purified by preparative HPLC-MS (Method C) to afford the title compound as an off white solid (21 mg).

reactant | methyl 5-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridine-2-carboxylate | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C=1C=CC(=NC1)C(=O)OC | C19H16N8O3
reactant | methyl magnesium bromide | 2.72 mmol, 3M, 907 μL | C[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-[5-(3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridin-2-yl]ethan-1-one | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C=1C=CC(=NC1)C(C)=O | C19H16N8O2
